US08541457B2
Synthesis of 2-(2-Chlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 2-chlorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 13% yield; 1H NMR (CDCl3, 300 MHz) δ 7.78 (d, J=7.8 Hz, 1H), 7.46-7.27 (m, 8H), 5.95 (s, 1H), 4.57 (d, J=4.6 Hz, 2H), 2.33 (s, 3H); MS (ES+) m/z 386.1 (M+1).

reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(2-Chlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 13% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=C(C=CC=C1)Cl)=O)C | C19H16ClN3O2S
